US09278951B2
4,5-Dichloroimidazole (2.00 g, 14.6 mmol) was dissolved in 15 mL acetonitrile in a round bottom flask. Potassium hydroxide (0.90 g, 16.0 mmol) was added and the mixture was refluxed for 15 min. Concurrently, 2-chloromethylquinoline hydrochloride (3.13 g, 14.6 mmol) and potassium hydroxide (0.82 g, 14.6 mmol) were added to a second round bottom flask and stirred in 60 mL acetonitrile at reflux for 10 min. The contents of the second flask were added to the first, and the combined mixture was refluxed overnight, during which time a white precipitate formed. The reaction mixture was filtered hot, yielding a clear, tan filtrate. Slow evaporation and cooling of the filtrate yielded tan crystals of 1-(quinolin-2-ylmethyl)-4,5-dichloroimidazole, which were collected by a second filtration. The crystals (0.66 g, 2.4 mmol) and 2-(bromomethyl)naphthalene (0.58 g, 2.6 mmol) were dissolved in 2 mL acetonitrile and refluxed for 3.5 h, during which time a white precipitate formed. The precipitate was collected via filtration of the reaction mixture and washed with acetonitrile to yield a white powder (1.02 g, 86% yield).). 1H NMR (300 MHz, DMSO-d6) 9.84 (1H, s, NCHN), 8.52 (1H, d, Ar), 7.8 (12H, m, Ar), 5.95 (2H, s, CH2), 5.83 (2H, s, CH2).

reactant | 4,5-Dichloroimidazole | 14.6 mmol, 2.00 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 16.0 mmol, 0.90 g | [OH-].[K+]
reactant | 2-chloromethylquinoline hydrochloride | 14.6 mmol, 3.13 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | potassium hydroxide | 14.6 mmol, 0.82 g | [OH-].[K+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 1-(quinolin-2-ylmethyl)-4,5-dichloroimidazole | N1=C(C=CC2=CC=CC=C12)CN1C=NC(=C1Cl)Cl | C13H9Cl2N3
